US04719047
Using the procedure outlined in 2D, oxidation of (10-bromo-1-anthryl)methanol with PCC gave 10-bromo-1-anthracenecarbaldehyde mp 134.5°-135.5°, (PhCH3 /hexane), (C,H,Br).

reactant | (10-bromo-1-anthryl)methanol | BrC1=C2C=CC=C(C2=CC2=CC=CC=C12)CO | C15H11BrO
reactant | PCC | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
product | 10-bromo-1-anthracenecarbaldehyde | BrC1=C2C=CC=C(C2=CC2=CC=CC=C12)C=O | C15H9BrO
